US06916819B2
2. Preparation of N3-ethyl-6-propyl-pyridine-3,4-diamine
A solution of the crude N-(4-amino-6-propyl-pyridin-3-yl)-acetamide (114 mg, 0.59 mmol) in THF (2.5 mL) at 0° C. under N2 is treated with 0.5 M EtNMe2.AlH3 in toluene (2.4 mL, 1.18 mmol). The reaction mixture is stirred for 4 h while slowly warming to rt, whereupon it is treated with additional 0.5 M EtNMe2.AlH3 in toluene (2.4 mL, 1.18 mmol). After stirring at room temperature overnight, the reaction mixture is cooled to 0° C. and treated with moist Na2CO3. The mixture is diluted with CH2Cl2 and stirred vigorously for 15 min. It is then filtered through a pad of Celite, and the filtrate concentrated. The crude material is partially purified by preparative thin layer chromatography, developing with 15:1 CHCl3-MeOH (+1% Et3N). The band containing the desired N3-ethyl-6-propyl-pyridine-3,4-diamine does not separate well from the approximately 10% of the slightly more polar, unreacted N-(4-amino-6-propyl-pyridin-3-yl)-acetamide. Both bands are collected, and the mixture is carried into the next reaction. 1H NMR (CDCl3, 300 MHz) δ 7.74 (s, 1H), 6.42 (s, 1H), 4.10 (br, 1H), 3.67 (m, 1H), 3.10 (q, J=7.2 Hz, 2H), 2.56 (m, 2H), 1.67 (sextet, J=7.2 Hz, 2H), 1.25 (t, J=7.2 Hz, 3H), 0.91 (t, J=7.2 Hz, 3H) ppm. Electrospray MS: m/z 180 [M+1].

reactant | N-(4-amino-6-propyl-pyridin-3-yl)-acetamide | 0.59 mmol, 114 mg | NC1=C(C=NC(=C1)CCC)NC(C)=O | C10H15N3O
reactant | EtNMe2 | 0.5 M | C(C)N(C)C | C4H11N
reactant | AlH3 | [AlH3]
reactant | toluene | 1.18 mmol, 2.4 mL | C1(=CC=CC=C1)C | C7H8
reactant | EtNMe2 | 0.5 M | C(C)N(C)C | C4H11N
reactant | toluene | 1.18 mmol, 2.4 mL | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N3-ethyl-6-propyl-pyridine-3,4-diamine | C(C)NC=1C=NC(=CC1N)CCC | C10H17N3
